US05153318
a) 2-Amino-6-azetidinyl-9-H-purine
2-Amino-6-chloropurine (Sigma, lot #69F4064, 1.0 g, 5.8 mmol) was suspended in 50mL acetonitrile. Azetidine (Aldrich, lot #05606HV, 1.0 g, 17.5 mmol) was added and the reaction stirred at 62° C. for 24 hours. The solvents were evaporated to give a white solid which was recrystallized from methanol to yield 0.71 g (3.7 mmol, 65%); mp=280° C.

reactant | 2-Amino-6-chloropurine | 5.8 mmol, 1.0 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | Azetidine | 17.5 mmol, 1.0 g | N1CCC1 | C3H7N
solvent | acetonitrile | 50mL | C(C)#N | C2H3N
product | 2-Amino-6-azetidinyl-9-H-purine | NC1=NC(=C2N=CNC2=N1)N1CCC1 | C8H10N6
